US06365135B1
Lauroyl [4-(N-acetylamino)]phenol
An equivalent amount in moles of para-acetylaminophenol and lauroyl chloride are placed in contact at 0° C. in DMF (dilution=15%) in the presence of one molar equivalent of triethylamine. The mixture is allowed to warm to room temperature with stirring and the reaction medium is then poured into water and the product precipitates. It is washed with heptane and then dried under vacuum. The yield is 12%. The elemental analysis is in accordance with the structure.

reactant | para-acetylaminophenol | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | lauroyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | Lauroyl [4-(N-acetylamino)]phenol | yield is 12% | C(CCCCCCCCCCC)(=O)C1=C(C=CC(=C1)NC(C)=O)O | C20H31NO3
